datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([C:17]([H:28])([H:29])[H:30])[c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:24])([H:25])[H:26])([C:16]([C:17]([H:28])([H:29])[H:30])[c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:27])[H:7])([H:5])[H:6],44.6433
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](#[C:6][C:7]([H:9])[H:10])[H:8]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:7]([C:6]#[C:5][H:8])([H:9])[H:10],5.0208
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:15])[H:16])([C:14]([H:18])([H:19])[H:20])[H:17])[H:5],40.5011
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([C:7]([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([H:15])([H:16])[C:7]1([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:10],152.925
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:20])([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:19])([H:4])[H:5].[C:7]([C:8]([S:9][H:20])[c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])([H:16])([H:17])[H:18],55.6472
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][O:12][C:13](=[O:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:11][O:12][C:13](=[O:14])[H:15],68.95232
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:23])[H:24])[H:22])=[C:11]([C:12]([H:25])([H:26])[H:27])[c:13]1[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[H:32])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:11]([C:8]([C:7](=[C:6]([H:19])[H:20])[H:21])[C:9](=[C:10]([H:23])[H:24])[H:22])([C:12]([H:25])([H:26])[H:27])[c:13]1[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]([H:31])[c:18]1[H:32])[H:3],37.7815
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22])[H:8])([H:6])[H:7],-1.6736
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:5][H:14],6.276
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[O:7][H:8]>>[C:0]([C:1](=[O:2])[H:6])([H:4])[H:5].[H:3][O:7][H:8],22.229592
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10](=[C:11]([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:22])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:22])[H:21])[H:4],37.6978
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([c:28]1[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]1[H:42])[H:37])([H:34])([H:35])[H:36]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27]([C:26]([H:34])([H:35])[H:36])([c:28]1[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]1[H:42])[H:37])[H:14])([H:12])[H:13],39.6643
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[S:6]([c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[S:6][c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],12.9704
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6](=[C:7]=[C:8]([H:10])[H:11])[H:9]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:6](=[C:7]=[C:8]([H:10])[H:11])[H:9],54.392
[N:0]([C:1](=[O:2])[H:5])([H:3])[H:4].[O:6][H:7]>>[H:5][O:6][H:7].[N:0]([C:1]=[O:2])([H:3])[H:4],0.0
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9](=[C:10]=[C:11]([H:13])[H:14])[H:12]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9](=[C:10]=[C:11]([H:13])[H:14])[H:12],43.932
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:15])([H:4])[H:5].[C:9]([C:10]([S:11][H:17])[H:16])([H:12])([H:13])[H:14],30.5432
